US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3-nitrophenyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-4aR)-(10bR)-8-(3-nitrophenyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one (12 mg, 0.034 mmol), 0.10 mL of t-butanol, and potassium t-butoxide (12 mg, 0.10 mmol). Methyl iodide (0.006 mL, 0.10 mmol) was added and the mixture was stirred at room temperature for 4 h. The mixture was diluted with ethyl acetate, and purified by silica gel chromatography (ethyl acetate eluent) to give 9 mg (75%) of the title compound as a white solid, upon trituration from diethyl ether/hexanes. mp 175°-177°. FDMS: m/e=348.

reactant | (10bR)-8-(3-nitrophenyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one | 0.034 mmol, 12 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C([C@]3(C=CC(NC3CC2)=O)C)C=C1 | C20H18N2O3
reactant | t-butanol | 0.10 mL | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 0.10 mmol, 12 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 0.10 mmol, 0.006 mL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-nitrophenyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one | 9 mg, 75% | CN1C(C=C[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)[N+](=O)[O-])C)=O | C21H20N2O3
